US06110962
(2-Benzyl-benzo[b]thiophen-3-yl)-(3-methoxy-phenyl)-methanone
Prepared from 2-benzyl-benzo[b]thiophene and m-anisoyl chloride according to the procedure in Example 8. White solid: MS (EI): [M+], 358.

reactant | 2-benzyl-benzo[b]thiophene | C(C1=CC=CC=C1)C1=CC2=C(S1)C=CC=C2 | C15H12S
reactant | m-anisoyl chloride | C(C1=CC(=CC=C1)OC)(=O)Cl | C8H7ClO2
product | (2-Benzyl-benzo[b]thiophen-3-yl)-(3-methoxy-phenyl)-methanone | C(C1=CC=CC=C1)C1=C(C2=C(S1)C=CC=C2)C(=O)C2=CC(=CC=C2)OC | C23H18O2S
